US07776867B2
Step 4: 4-(2-(S)-Tetrahydrofuranyl)methylamino-5-phenyl-6-bromofuro-[2,3-d]pyrimidine (268)
To a solution of 4-amino-5-phenyl-6-bromofuro-[2,3-d]pyrimidine (0.99 g, 3.4 mmol) in dimethyl formamide (10 mL) was added 2-(S)-(toluenesulfonyloxymethyl)-tetrahydrofuran (0.88 g, 3.4 mmol) and sodium hydroxide powder (0.15 g, 3.8 mmol). The resulting mixture was stirred at 120° C. for 2 h. The mixture was then partitioned between ethyl acetate and water and the organic layer washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The crude solid was purified by flash column chromatography (10% ethyl acetate/hexane) to yield the product as a white solid (0.48 g, 38%).

reactant | 4-amino-5-phenyl-6-bromofuro-[2,3-d]pyrimidine | 3.4 mmol, 0.99 g | NC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)Br | C12H8BrN3O
reactant | 2-(S)-(toluenesulfonyloxymethyl)-tetrahydrofuran | 3.4 mmol, 0.88 g | C=1(C(=CC=CC1)S(=O)(=O)OC[C@H]1OCCC1)C | C12H16O4S
reactant | sodium hydroxide | 3.8 mmol, 0.15 g | [OH-].[Na+]
solvent | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(2-(S)-Tetrahydrofuranyl)methylamino-5-phenyl-6-bromofuro-[2,3-d]pyrimidine | 0.48 g, 38% | O1[C@@H](CCC1)CNC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)Br | C17H16BrN3O2
